US05571843
5-methoxy-2-(4-phenylsemicarbazono)-indan-1,3-dione
5-methoxyindan-1,2,3-trione, monohydrate, 4-phenyl semicarbazide hydrochloride

reactant | 5-methoxyindan-1,2,3-trione, monohydrate | O.COC=1C=C2C(C(C(C2=CC1)=O)=O)=O
reactant | 4-phenyl semicarbazide hydrochloride | Cl.C1(=CC=CC=C1)NC(NN)=O
product | 5-methoxy-2-(4-phenylsemicarbazono)-indan-1,3-dione | COC=1C=C2C(C(C(C2=CC1)=O)=NNC(=O)NC1=CC=CC=C1)=O | C17H13N3O4
